US04684661
N-Methyl-N-(1-naphthylmethyl)-5-ethyl-5-hepten-3-yn-amine
To a solution of 630 mg N-methyl-N-(1-naphthylmethyl)-5-ethyl-5-hydroxy-3-heptyn-amine in CH2Cl2 are added, dropwise, at -20° 0.5 ml triethylamine and thereafter 0.21 ml mesylchloride, dissolved in CH2Cl2. The mixture is stirred for 3 hours at room temperature, washed several times with water, the organic phase is dried and evaporated. The residue is chromatographed over silica gel (with toluene/ethylacetate 4/1) to give the title compound (Compound 29) as an oil.

reactant | N-methyl-N-(1-naphthylmethyl)-5-ethyl-5-hydroxy-3-heptyn-amine | 630 mg | CN(CCC#CC(CC)(O)CC)CC1=CC=CC2=CC=CC=C12 | C21H27NO
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | mesylchloride | 0.21 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-Methyl-N-(1-naphthylmethyl)-5-ethyl-5-hepten-3-yn-amine | CN(CCC#CC(=CC)CC)CC1=CC=CC2=CC=CC=C12 | C21H25N
